US03983107
N-(Pyrrolidinocarbonyl)-2-phenylethenesulfonamide
A mixture of 3.4 g. of N-(N-[m-chlorophenyl]carbamoyl)-2-phenylethenesulfonamide and 2.15 g. of pyrrolidine in 100 ml. of ethanol is heated under reflux for 20 hours. The solution is cooled, and then it is concentrated in vacuo to ca. 25 ml. A small amount of starting material precipitates and it is filtered off. To the ethanol filtrate is then added 75 ml. of ether and 75 ml. of water. The layers are separated, and the aqueous layer is acidified using concentrated hydrochloric acid. This causes the crude product to precipitate. It is filtered off, and when dry it weighs 1.5 g. The ether layer is washed with 50 ml. of 1N hydrochloric acid, followed by 25 ml. of water. After being dried using anhydrous sodium sulfate, the ether is evaporated in vacuo to give a second crop of product (0.70 g.). The first crop of product is recrystallized from acetone to 0.60 g. of pure N-(pyrrolidinocarbonyl)-2-phenylethenesulfonamide, m.p. 201°-204° C.

reactant | N-(N-[m-chlorophenyl]carbamoyl)-2-phenylethenesulfonamide | ClC=1C=C(C=CC1)NC(=O)NS(=O)(=O)C=CC1=CC=CC=C1 | C15H13ClN2O3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | N-(Pyrrolidinocarbonyl)-2-phenylethenesulfonamide | N1(CCCC1)C(=O)NS(=O)(=O)C=CC1=CC=CC=C1 | C13H16N2O3S
